US07893267B2
To a solution of 2.0 g (10 mmol) of 2-bromoacetophenone in DMF (30 mL) was added 3.0 g (29 mmol) 1-acetylguanidine in one portion, the reaction mixture was stirred at rt for 2 days. The reaction mixture was diluted with EtOAc (250 mL) and washed with saturated NH4Cl aq. solution (50 mL). The organic phase was dried over MgSO4 and concentrated under vacuum. The residue was purified by a flash column chromatography eluting with EtOAc to give N-(4-phenyl-1H-imidazol-2-yl)-acetamide. (0.5 g, 24%). LCMS: 203 (M+1)+.

reactant | 2-bromoacetophenone | 10 mmol, 2.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 1-acetylguanidine | 29 mmol, 3.0 g | C(C)(=O)NC(=N)N | C3H7N3O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | N-(4-phenyl-1H-imidazol-2-yl)-acetamide | C1(=CC=CC=C1)C=1N=C(NC1)NC(C)=O | C11H11N3O
